US07067540B2
Preparation of 4-(benzyloxy)-3-bromo-1-(2,6-dichlorophenyl)-6-methylpyridin-2(1H)-one
A mixture of 4-(benzyloxy)-1-(2,6-dichlorophenyl)-6-methylpyridin-2(1H)-one (0.1 g, 0.278 mmol) and N-bromosuccinimide (0.055 g, 0.3 mmol) in dichloroethane (3.0 mL) was stirred at room temperature for 1 h, and heated at 60° C. under argon for 30 min. The reaction mixture was then diluted with dichloroethane (15 mL), washed with water, dried (Na2SO4), filtered, and concentrated under reduced pressure. 1H NMR (CD3OD) δ: 7.64 (m, 2H), 7.55 (m, 3H), 7.38 (m, 3H), 6.65 (s, 1H), 5.34 (s, 2H), and 2.00 (s, 3H); ES-MS m/z=439 (MH+); HR-MS, m/z calc C19H16NO2Cl2Br, 439.9635, found 439.9669.

reactant | 4-(benzyloxy)-1-(2,6-dichlorophenyl)-6-methylpyridin-2(1H)-one | 0.278 mmol, 0.1 g | C(C1=CC=CC=C1)OC1=CC(N(C(=C1)C)C1=C(C=CC=C1Cl)Cl)=O | C19H15Cl2NO2
reactant | N-bromosuccinimide | 0.3 mmol, 0.055 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloroethane | 3.0 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 15 mL | ClC(C)Cl | C2H4Cl2
product | 4-(benzyloxy)-3-bromo-1-(2,6-dichlorophenyl)-6-methylpyridin-2(1H)-one | C(C1=CC=CC=C1)OC1=C(C(N(C(=C1)C)C1=C(C=CC=C1Cl)Cl)=O)Br | C19H14BrCl2NO2
